US07645753B2
4-Ethoxy-6-hydroxymethyl-3H-benzooxazol-2-one
To a solution of 4-ethoxy-2-oxo-2,3-dihydro-benzooxazole-6-carboxylic acid ethyl ester (1.1 g, 4.38 mmol, 1.0 equiv; prepared as described in I. Kompis, A. Wick Helv. Chim. Acta 1977, 60, 3025-3034) in a mixture of dichloromethane (20 mL) and THF (10 mL) at −78° C. under Ar was slowly added diisobutylaluminium hydride (14.0 mL, 14.02 mmol, 3.2 equiv, 1 M solution in dichloromethane) over a time period of 15 min, the cooling bath removed on completion of addition and the reaction allowed to reach 0° C. After 1 h, the excess hydride was quenched by cautious addition of a sat. solution of potassium sodium tartrate (10 mL). The solidified mixture was extracted with hot THF, the combined organic phases concentrated by evaporation under reduced pressure and the crude material purified with column chromatography on silica eluting with hexane/ethyl acetate (1:2) providing 0.69 g (75%) of the title compound. 1H NMR (300 MHz, DMSO): δ 1.37 (t, J=7.0 Hz, 3H), 4.15 (q, J=7.0 Hz, 2H), 4.49 (d, J=5.6 Hz, 2H), 5.21 (t, J=5.6 Hz, 1H), 6.82 (s, 1H), 6.85 (s, 1H), 11.64 (br s, 1H). 13C NMR (75 MHz, DMSO): δ 14.61, 62.89, 64.26, 100.74, 106.46, 117.80, 137.50, 142.74, 144.05, 154.54. MS (ISP): 209.8 [M+H]+.

reactant | 4-ethoxy-2-oxo-2,3-dihydro-benzooxazole-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(NC(O2)=O)C(=C1)OCC | C12H13NO5
reactant | diisobutylaluminium hydride | 14.02 mmol, 1 M, 14.0 mL, 3.2 equiv | [H-].C(C(C)C)[Al+]CC(C)C
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Ethoxy-6-hydroxymethyl-3H-benzooxazol-2-one | 0.69 g, 75% | C(C)OC1=CC(=CC2=C1NC(O2)=O)CO | C10H11NO4
